US06153608
To a solution of 1.0 g of D-alaninol in 50 ml of methylene chloride was added 2.02 g of triethylamine, and after addition of 3.22 g of 5-chlorosulfonyl-4-methylisoquinoline under ice-cooling, the mixture was stirred for 2 hours. This reaction mixture was diluted with water and extracted with methylene chloride and the extract was dried and concentrated. The residue was purified by silica gel column chromatography (chloroform/methanol=30/1) to provide 3.0 g of (R)-2-[(4-methyl-5-isoquinolinyl)sulfonyl amino]-1-propanol (white crystals).

reactant | D-alaninol | 1.0 g | N[C@H](C)CO | C3H9NO
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
reactant | 5-chlorosulfonyl-4-methylisoquinoline | 3.22 g | ClS(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | C10H8ClNO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (R)-2-[(4-methyl-5-isoquinolinyl)sulfonyl amino]-1-propanol | 3.0 g | CC1=CN=CC2=CC=CC(=C12)S(=O)(=O)N[C@@H](CO)C | C13H16N2O3S
